US05834575
14.7 g (60.3 mmols) of N-ethyl-N-(2-hydroxyethyl)-4-bromoaniline, 90 ml of chloroform, 10.68 ml (2.0-fold equivalent weight) of 3,4-dihydro-2H-pyran and 0.76 g (0.05-fold equivalent weight) of pyridine p-toluenesulfonate were mixed, and the mixture obtained was heated at 70° C. for 1.5 hours in an atmosphere of argon. Thereafter, a saturated aqueous sodium hydrogencarbonate solution was added to the reaction solution obtained, which was then extracted with chloroform (200 ml×2). The organic layer thus formed was washed with a saturated aqueous sodium hydrogencarbonate solution, which was then dried with anhydrous magnesium sulfate and thereafter concentrated. The residue thus obtained was purified by silica gel column chromatography (developing system: chloroform) to obtain 18.90 g of N-ethyl-N-[2-(tetrahydropyran-2-yl)oxyethyl]-4-bromoaniline (yield: quantitative; a colorless oily liquid).

reactant | N-ethyl-N-(2-hydroxyethyl)-4-bromoaniline | 60.3 mmols, 14.7 g | C(C)N(C1=CC=C(C=C1)Br)CCO | C10H14BrNO
reactant | 3,4-dihydro-2H-pyran | 10.68 ml | O1CCCC=C1 | C5H8O
reactant | pyridine p-toluenesulfonate | 0.76 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.N1=CC=CC=C1
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 90 ml | C(Cl)(Cl)Cl | CHCl3
product | N-ethyl-N-[2-(tetrahydropyran-2-yl)oxyethyl]-4-bromoaniline | 18.90 g, yield: quantitative | C(C)N(C1=CC=C(C=C1)Br)CCOC1OCCCC1 | C15H22BrNO2
